US06441189B1
A solution of the methyl 2-amino-2-methylpropanoate hydrochloride(65.5 g) in THF (650 mL) was treated with triethylamine (60 mL), heated to reflux, stirred for 30 minutes, cooled to room temperature, treated dropwise with a solution of triphosgene (43.2 g) in THF (250 mL) over 5 minutes, heated to reflux, stirred for 4 hours, cooled to 15° C., treated with triethylamine (120 mL) over 7 minutes, heated to reflux, stirred for 40 minutes, cooled to room temperature, and filtered. The solid was washed with THF and the filtrate was collected to provide a solution of methyl 2-isocyanato-2-methylpropanoate in THF.

reactant | methyl 2-amino-2-methylpropanoate hydrochloride | 65.5 g | Cl.NC(C(=O)OC)(C)C
reactant | triethylamine | 60 mL | C(C)N(CC)CC | C6H15N
reactant | triphosgene | 43.2 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | triethylamine | 120 mL | C(C)N(CC)CC | C6H15N
solvent | THF | 650 mL | C1CCOC1 | C4H8O
solvent | THF | 250 mL | C1CCOC1 | C4H8O
product | methyl 2-isocyanato-2-methylpropanoate | N(=C=O)C(C(=O)OC)(C)C | C6H9NO3
